US05411979
To a mixture of 39.0 g (251 mmol.) of D,L-serine methyl ester hydrochloride and 800 ml of pyridine, there was added dropwise 37 ml (324 mmol.) of 2,6-difluorobenzoylchloride with stirring at room temperature for 5 hours. Then the reaction mixture was further stirred at the same temperature for 2 hours. After the reaction was completed, the resultant mixture was concentrated under reduced pressure. To the residue, there was added 500 ml of chloroform. The mixture was washed with water, extracted with chloroform, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was subjected to silica gel chromatography to give 25.88 g of N-(2,6-difluorobenzoyl)serine methyl ester as a colorless oily substance (nD22.9 1.5038).

reactant | D,L-serine methyl ester hydrochloride | 251 mmol, 39.0 g | Cl.COC(C(N)CO)=O
reactant | 2,6-difluorobenzoylchloride | 324 mmol, 37 ml | FC1=C(C(=O)Cl)C(=CC=C1)F | C7H3ClF2O
solvent | pyridine | 800 ml | N1=CC=CC=C1 | C5H5N
product | N-(2,6-difluorobenzoyl)serine methyl ester | 25.88 g | COC([C@@H](NC(C1=C(C=CC=C1F)F)=O)CO)=O | C11H11F2NO4
